US07365085B2
d. 2-Phenyl-4-methylpentanoic acid amide
The titled compound was prepared from 2-phenyl-4-methylpentanoic acid in 94% yield in the same manner as the preparation of 2-(4-Methoxyphenyl)propionamide in Example 188b. MS (ESI) 192 (MH+)

reactant | 2-phenyl-4-methylpentanoic acid | C1(=CC=CC=C1)C(C(=O)O)CC(C)C | C12H16O2
reactant | 2-(4-Methoxyphenyl)propionamide | COC1=CC=C(C=C1)C(C(=O)N)C | C10H13NO2
product | 2-Phenyl-4-methylpentanoic acid amide | 94% yield | C1(=CC=CC=C1)C(C(=O)N)CC(C)C | C12H17NO
